### PR TITLE
feat: add `BitVec.(toNat, toInt, toFin)_shiftLeftZeroExtend`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds theorems `BitVec.(toNat, toInt, toFin)_shiftLeftZeroExtend`, completing the API for `BitVec.shiftLeftZeroExtend`.

### CODE REVIEW

**Comment by luisacicolini** [comment]
changelog-library

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase a7af9f7d5f6580071434d499e97ddbcccafb1a59 --onto 957b904ef9fd11ed9cb49f12fcc9d7b989c01900`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-16 10:26:50)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase a7af9f7d5f6580071434d499e97ddbcccafb1a59 --onto 3b2990b3816b7e7ec289ad498496a61d18bd85f4`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-17 17:15:58)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1932,6 +1932,61 @@ theorem shiftLeftZeroExtend_eq {x : BitVec w} :
...
+          Int.sub_right_inj, show w + (n + 1) + 1 = (w + 1) + (n + 1) by omega, Nat.pow_add]
+      · simp only [Bool.not_eq_true] at hmsb
+        have hle := toNat_lt_of_msb_false (x := x) hmsb
+        simp only [Nat.add_one_sub_one] at hle
+        rw [Int.emod_eq_of_lt (by norm_cast; rw [Nat.shiftLeft_eq]; omega) (by omega)]
+        rw_mod_cast [← Nat.add_assoc]
+        rw [show (2 ^ (w + 1 + n + 1) + 1) / 2 = 2 ^ (w + 1 + n) by omega, Int.natCast_pow,
+          Int.cast_ofNat_Int, Nat.shiftLeft_eq, Nat.add_assoc,  Nat.pow_add (a := 2) (m := w) (n := 1 + n), Nat.add_comm 1 n]
+        simp [Nat.mul_lt_mul_right (b := x.toNat) (c := 2 ^ w) (a := 2 ^ (n + 1)) (by omega), hle,
+          reduceIte, Int.natCast_mul, Int.natCast_pow, Int.cast_ofNat_Int, toInt_eq_toNat_of_msb hmsb]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: I was hoping to find a shorter proof: First, prove lemmas about `(x <<< n).toInt`, and use these lemmas to establish the correctness of `toInt_shiftLeftZeroExtend`, but thinking this through with @luisacicolini made me realize that there are no such lemmas. The correctness of this function depends on the simultaneous zero-extension. 

I'm now convinced that a shorter proof does not exist.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -1932,6 +1932,61 @@ theorem shiftLeftZeroExtend_eq {x : BitVec w} :
...
+
+theorem toFin_shiftLeftZeroExtend {x : BitVec w} :
+    (shiftLeftZeroExtend x n).toFin = Fin.ofNat (2 ^ (w + n)) (x.toNat * 2 ^ n) := by
+  rcases w with _|w
+  · simp [of_length_zero, shiftLeftZeroExtend_eq]
+  · have := Nat.pow_le_pow_of_le (a := 2) (n := w + 1) (m := w + 1 + n) (by omega) (by omega)
+    simp only [shiftLeftZeroExtend_eq, toFin_shiftLeft, toNat_setWidth]
+    rw [Nat.mod_eq_of_lt (by omega), Nat.shiftLeft_eq]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: think these can be merged.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -1932,6 +1932,61 @@ theorem shiftLeftZeroExtend_eq {x : BitVec w} :
...
   · omega
 
+theorem toNat_shiftLeftZeroExtend {x : BitVec w} :
+    (shiftLeftZeroExtend x n).toNat = x.toNat <<< n := by
+  rcases n with _|n
+  · simp [shiftLeftZeroExtend]
+  · simp only [shiftLeftZeroExtend_eq, toNat_shiftLeft, toNat_setWidth]
+    have :=  Nat.pow_lt_pow_of_lt (a := 2) (n := w) (m := w + (n + 1)) (by omega) (by omega)
+    have : x.toNat <<< (n + 1) < 2 ^ (w + (n + 1)) := by
+      rw [Nat.shiftLeft_eq, Nat.pow_add (m := w) (n := n + 1), Nat.mul_lt_mul_right (by apply Nat.two_pow_pos (w := n + 1))]; omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
      rw [Nat.shiftLeft_eq, Nat.pow_add (m := w) (n := n + 1), Nat.mul_lt_mul_right (by apply Nat.two_pow_pos (w := n + 1))]
      omega
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -1932,6 +1932,64 @@ theorem shiftLeftZeroExtend_eq {x : BitVec w} :
...
+    rw [Nat.mod_eq_of_lt (by rw [Nat.mod_eq_of_lt (by omega)]; omega), Nat.mod_eq_of_lt (by omega)]
+
+@[simp]
+theorem toInt_shiftLeftZeroExtend {x : BitVec w} :
+    (shiftLeftZeroExtend x n).toInt = x.toInt * 2 ^ n := by
+  rw [shiftLeftZeroExtend_eq]
+  rcases w with _|w
+  · simp [of_length_zero, shiftLeftZeroExtend_eq]
+  · rcases n with _|n
+    · case zero => simp [shiftLeftZeroExtend_eq]
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    · simp [shiftLeftZeroExtend_eq]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -1932,6 +1932,64 @@ theorem shiftLeftZeroExtend_eq {x : BitVec w} :
...
+    · case succ =>
+      have := Nat.pow_pos (a := 2) (n := n + 1) (by omega)
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    · have := Nat.pow_pos (a := 2) (n := n + 1) (by omega)
```
